US07169926B1
As described in example 3 step E, 4-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-piperidine-1-carboxylic acid benzyl ester (50 mg, 0.102 mmol), was alkylated by treating with NaH (5 mg, 0.12 mmol, 60% in mineral oil), and benzyl bromide (26 mg, 0.15 mmol) to give after work-up and chromatography, 4-(3-benzyl-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-piperidine-1-carboxylic acid benzyl ester (43 mg, 83% yield). 1H-NMR (CDCl3): δ 8.34 (dd, 1H, J=8.0, 1.6 Hz), 7.53 (m, 1H), 7.42 (m, 1H), 7.26–7.37 (m, 9H), 7.10 (m, 2H), 5.91 (m, 2H), 5.13 (s, 2H), 4.28 (m, 2H), 3.79 (s, 3H), 2.89 (m, 3H), 1.98 (m, 2H), 1.68 (m, 2H). MS: calculated for C24H24N4O3+H 507.2; found: 507.6.

reactant | 4-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-piperidine-1-carboxylic acid benzyl ester | 0.102 mmol, 50 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1 | C24H24N4O3
reactant | NaH | 0.12 mmol, 5 mg | [H-].[Na+]
reactant | benzyl bromide | 0.15 mmol, 26 mg | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-(3-benzyl-5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-piperidine-1-carboxylic acid benzyl ester | 43 mg, 83% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1CC1=CC=CC=C1 | C31H30N4O3
